US20010008893A1
1-(2,3,5-Trimethyl-4-hydroxyphenoxy)-3-[4-(2-methoxyphenyl)-1-piperazinyl] propan-2-ol
Using 3.88 g of 1-(4-acetoxy-2,3,5-trimethylphenoxy)-2,3-epoxypropane, 3.58 g of 1-(2-methoxyphenyl)piperazine and 100 ml of dioxane, reaction and workup were carried out as in Examples 1-A and 4. After hydrolysis and workup, the residue obtained was recrystallized from benzene-hexane to give 2.06 g of white crystals, m.p. 163-165°C.

reactant | 1-(4-acetoxy-2,3,5-trimethylphenoxy)-2,3-epoxypropane | 3.88 g | C(C)(=O)OC1=C(C(=C(OCC2CO2)C=C1C)C)C | C14H18O4
reactant | 1-(2-methoxyphenyl)piperazine | 3.58 g | COC1=C(C=CC=C1)N1CCNCC1 | C11H16N2O
solvent | dioxane | 100 ml | O1CCOCC1 | C4H8O2
product | 1-(2,3,5-Trimethyl-4-hydroxyphenoxy)-3-[4-(2-methoxyphenyl)-1-piperazinyl] propan-2-ol | 2.06 g | CC1=C(OCC(CN2CCN(CC2)C2=C(C=CC=C2)OC)O)C=C(C(=C1C)O)C | C23H32N2O4
